US06387896B1
Step 1 Preparation of 5-nitrobenzo[b]thiophene
Methyl thioglycolate (14.3 g, 135 mmol) in methanol (250 mL) at 40° C. is treated dropwise with 25% sodium methoxide in methanol (37 mL, 160 mmol) and the resulting mixture mechanically stirred at 50° C. for 30 min. 2-chloro-5-nitrobenzaldehyde in methanol (250 mL) is added in a steady stream to give a heavy precipitate which is heated at 50° C. for 1 h. Sodium hydroxide (50% aqueous, 15 mL) is added and heating continued for 2 h, then cooled to ice bath temperature and acidified with concentrated hydrochloric acid. An additional 200 mL of water is added during this process to facilitate stirring. The resulting solids are collected by filtration, washed with water, and dried in vacuo at 45° C. overnight. The dried solids are suspended in quinoline (120 mL), copper metal (7.2 g) is added and the mixture is heated at 190° C. for 2 hr. The mixture is allowed to cool, then poured onto 500 g of ice, 6 N hydrochloric acid (500 mL) is added and then extracted with of dichloromethane. The organic layers are combined and washed with 6 N hydrochloric acid, dried, and flash chromatographed on silica gel eluting with 10-40% ethyl acetate in heptane to give 16.2 g (81%) of the title compound. 1H NMR (CDCl3) δ8.75 (s, 1 H), 8.22 (dd, J=2.3, 10 Hz, 1 H), 8.0 (d, J=10 Hz, 1 H), 7.68 (d, J=6 Hz, 1 H), 7.53 (d, J=6 Hz, 1 H); MS (−ESI) m/z 221.8 (M−H)

reactant | Methyl thioglycolate | 135 mmol, 14.3 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-chloro-5-nitrobenzaldehyde | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | Sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 160 mmol, 37 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 5-nitrobenzo[b]thiophene | 16.2 g, 81% | [N+](=O)([O-])C1=CC2=C(SC=C2)C=C1 | C8H5NO2S
